US08008481B2
To a mixture of 4-chloro-2-methanesulfonyl-pyrimidine (Preparation #1, 1.35 g, 7.0 mmol) in DME (10 mL) was added a mixture of 7-benzo[b]thiophen-2-yl-1H-indazol-5-ylamine (Example #F.8.1, 1.03 g, 3.9 mmol) and triethylamine (0.76 mL, 5.4 mmol) in DME (70 mL). After about 16 hours at ambient temperature the mixture was filtered, and the solid was purified by reverse phase preparative HPLC (Thermo Hypersil-Keystone 250×21.2 mm 8μ Hypersil® HS C18 column; 5% CH3CN/50 mM aqueous ammonium acetate hold for 5 min; 5-50% CH3CN/50 mM aqueous ammonium acetate over 20 min; 50-100% CH3CN/50 mM aqueous ammonium acetate over 1 min; hold at 100% CH3CN for 5 minutes, 21 mL/min) to yield 4-(7-Benzo[b]thiophen-2-yl-1H-indazol-5-ylamino)-pyrimidin-2-ol (2 mg, 0.006 mmol, 0.1% yield): LC/MS Rt (Method e) 1.3 min; m/z (M−H)− 358.3.

reactant | 4-chloro-2-methanesulfonyl-pyrimidine | 7.0 mmol, 1.35 g | ClC1=NC(=NC=C1)S(=O)(=O)C | C5H5ClN2O2S
reactant | 7-benzo[b]thiophen-2-yl-1H-indazol-5-ylamine | 3.9 mmol, 1.03 g | S1C2=C(C=C1C=1C=C(C=C3C=NNC13)N)C=CC=C2 | C15H11N3S
reactant | triethylamine | 5.4 mmol, 0.76 mL | C(C)N(CC)CC | C6H15N
reactant | DME | 10 mL | COCCOC | C4H10O2
reactant | DME | 70 mL | COCCOC | C4H10O2
product | 4-(7-Benzo[b]thiophen-2-yl-1H-indazol-5-ylamino)-pyrimidin-2-ol | 0.006 mmol, 2 mg, 0.1% yield | S1C2=C(C=C1C=1C=C(C=C3C=NNC13)NC1=NC(=NC=C1)O)C=CC=C2 | C19H13N5OS
